US08247430B2
4-Amino-2,3-dihydro-isoindol-1-one
To the suspension of 4-nitro-2,3-dihydro-isoindol-1-one (2.40 g, 13.5 mmol) in 100 ml of MeOH was added Pd/C (10 wt %, 0.36 g). The mixture was then placed under H2 from a balloon, stirred at RT for 24 h, filtered through Celite®, and condensed to give the titled compound as a light greenish solid. MS (ES+): 149.1 (M+H)+. Calc'd for C8H8N2O—148.16.

reactant | 4-nitro-2,3-dihydro-isoindol-1-one | 13.5 mmol, 2.40 g | [N+](=O)([O-])C1=C2CNC(C2=CC=C1)=O | C8H6N2O3
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | 0.36 g | [Pd] | Pd
product | 4-Amino-2,3-dihydro-isoindol-1-one | NC1=C2CNC(C2=CC=C1)=O | C8H8N2O
